US20010027196A1
To a stirred suspension of 1.5 g (7.85 mmol) 2-amino-6-furan-2-yl-5-methyl-3H-pyrimidin-4-one in 20 ml dichloromethane was added 3,52 ml (15.7 mmol) 2,6-di-tert-butylpyridine and the mixture was ultrasonicated for 30 minutes. 1.55 ml (9.42 mmol) triflic anhydride was then added dropwise at 0° C. with stirring and stirring continued at room temperature for 16 hours. Water was then added to the reaction mixture and the resulting crystals collected by filtration. The filtrate phases were separated and the organic phase concentrated in vacuo to ca 10 ml and cooled to 0° C. The resulting crystals were collected by filtration. The mother liquor was then concentrated in vacuo to ca 5 ml and recooled to 0° C. The resulting crystals were collected by filtration. All three batches of crystals were then combined and washed with a minimum quantity of ice-cold dichloromethane to afford 1.65 g (65%) trifluoromethanesulfonic acid 2-amino-6-furan-2-yl-5-methyl-pyrimidin-4-yl ester as a white crystalline solid. ES-MS m/e (%): 324 (M+H+, 100).

reactant | 2-amino-6-furan-2-yl-5-methyl-3H-pyrimidin-4-one | 7.85 mmol, 1.5 g | NC1=NC(=C(C(N1)=O)C)C=1OC=CC1 | C9H9N3O2
reactant | 2,6-di-tert-butylpyridine | 15.7 mmol, 3,52 ml | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | triflic anhydride | 9.42 mmol, 1.55 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | Water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid 2-amino-6-furan-2-yl-5-methyl-pyrimidin-4-yl ester | 1.65 g, 65% | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)C)C=1OC=CC1 | C10H8F3N3O4S
